US05128355
To a solution of 1.03 g of 1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole in 10 mL of anhydrous acetic acid at 25° was added a solution of 0.62 g of chromium trioxide in 10 mL of water. The mixture was stirred at 25° for 15 minutes and then poured into water. The precipitated solids were recovered by filtration and then dissolved in 50 mL of 1.0 N aqueous sodium hydroxide solution. The alkaline solution was allowed to stand at 25° overnight and then was acidified to pH 3 with 10% aqueous hydrochloric acid. The precipitated solid was recovered by filtration and recrystallized from ethyl acetate to afford 0.10 g of 1-[(2'-carboxybiphenyl-4-yl)methyl]-2-butyl-4-chloroimidazole-5-carboxylic acid (m.p. 186°-187° (decomp.)). NMR (DMSO-d6) δ 12.97 (br s, 2H); 7.68 (d, 1H); 7.53 (t, 1H); 7.41 (t, 1H); 7.34 (d, 1H); 7.28 (d, 2H); 7.02 (d, 2H); 5.61 (s, 2H); 2.60 (t, 2H); 1.53 (quint. 2H); 1.27 (sext., 2H); 0.81 (t, 3H).

reactant | 1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole | 1.03 g | C(=O)(OC)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)Cl)CCCC | C23H25ClN2O3
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
catalyst | chromium trioxide | 0.62 g | [O-2].[O-2].[O-2].[Cr+6]
product | 1-[(2'-carboxybiphenyl-4-yl)methyl]-2-butyl-4-chloroimidazole-5-carboxylic acid | 0.10 g | C(=O)(O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)O)Cl)CCCC | C22H21ClN2O4
